US08383827B2
Step 1: Synthesis of N-((5-bromopyridin-3-yl)(cyclopentyl)methyl)ethanesulfonamide
A mixture of 5-bromonicotinaldehyde (930 mg, 5 mmol), ethanesulfonamide (546 mg, 5.00 mmol) and titanium(IV) isopropoxide (2930 μl, 10.00 mmol) in toluene (20 mL) was heated to reflux for 4 h. After concentration, the residue was dissolved in THF (25 mL) and cooled to −40° C. A solution of cyclopentylmagnesium bromide (2M in THF, 6.25 mL, 12.5 mmol) was added dropwise and the resulting mixture was slowly warmed up to 0° C. over 4 h. The reaction was quenched with a saturated NH4Cl solution. The mixture was filtered, separated, and extracted with CH2Cl2. The organic phase was dried over Na2SO4, filtered and concentrated, and the residue was purified by flash column (ethyl acetate/heptane, v/v, 10%-30%) to give a yellow oil (480 mg). ESI-MS m/z: 348.9 [M+1]+; 1H NMR (400 MHz, CDCl3): δ 1.13-1.80 (m, 7H), 1.26 (t, J=7.4 Hz, 3H), 1.97-2.05 (m, 1H), 2.20-2.29 (m, 1H), 2.67-2.92 (m, 2H), 4.27 (t, J=8.8 Hz, 1H), 5.59 (brs, 1H), 7.87 (s, 1H), 8.56 (s, 1H), 8.68 (s, 1H).

reactant | 5-bromonicotinaldehyde | 5 mmol, 930 mg | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | ethanesulfonamide | 5.00 mmol, 546 mg | C(C)S(=O)(=O)N | C2H7NO2S
reactant | cyclopentylmagnesium bromide | 12.5 mmol, 2M, 6.25 mL | C1(CCCC1)[Mg]Br
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) isopropoxide | 10.00 mmol, 2930 μl | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | N-((5-bromopyridin-3-yl)(cyclopentyl)methyl)ethanesulfonamide | 480 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CCCC1 | C13H19BrN2O2S
